US05545647
Preparation of 3-(3-cyclopentyloxy-4-methoxyphenyl)-1-(ethoxycarbonyl) pyrrolidine (Compound No. 4 in Table 1):
460 mg of 3-(3-cyclopentyloxy-4-methoxyphenyl) pyrrolidine and 214 mg of triethylamine were dissoved in 15 ml of dichloromethane and cooled in an ice bath. During agitation, 229 mg of ethyl chloroformate was added in drops. After dropping, agitation was continued for 1 hour at a room temperature. Thereafter, the agitated solution was poured into ice water and then extracted with dichloromethane. After organic layers were cleaned by water and dried over magnesium sulfate, it was concentrated under a reduced pressure. The residue was purified by means of the silica gel column chromatography to obtain 92 mg of Compound No. 4 in Table 1.

reactant | 3-(3-cyclopentyloxy-4-methoxyphenyl) pyrrolidine | 460 mg | C1(CCCC1)OC=1C=C(C=CC1OC)C1CNCC1 | C16H23NO2
reactant | triethylamine | 214 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 229 mg | ClC(=O)OCC | C3H5ClO2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 3-(3-cyclopentyloxy-4-methoxyphenyl)-1-(ethoxycarbonyl) pyrrolidine | 92 mg | C1(CCCC1)OC=1C=C(C=CC1OC)C1CN(CC1)C(=O)OCC | C19H27NO4
